US09422244B2
0.42 g (1 mol equiv.) N-Methyl-8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carboximidothioic acid methyl ester and 0.46 g (1.05 mol equiv.) 6-chloro-imidazo[2,1-b]thiazole-5-sulfonic acid amide were added to 7 mL acetonitrile and the reaction mixture was refluxed overnight. Volatiles were removed under reduced pressure, and the residue was taken up in ethylacetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (EtOAc) afforded 0.56 g (69%) 6-chloro-imidazo[2,1-b]thiazole-5-sulfonic acid methylamino-(8-oxa-2,3-diaza-spiro[4.5]dec-3-en-2-yl)-methylene-amide. 1H NMR (400 MHz, CDCl3) δ 1.51-1.57 (m, 2H), 1.80-1.89 (m, 2H), 3.10 (d, J=5.0 Hz, 3H), 3.51-3.59 (m, 2H), 3.83-3.90 (m, 4H), 3.89 (s, 2H), 6.89 (s, 1H), 6.99 (d, J=4.6 Hz, 1H), 7.12 (br.s., 1H), 8.01 (d, J=4.6 Hz, 1H).

reactant | N-Methyl-8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carboximidothioic acid methyl ester | 1 mol, 0.42 g | CSC(=NC)N1CC2(C=N1)CCOCC2 | C10H17N3OS
reactant | 6-chloro-imidazo[2,1-b]thiazole-5-sulfonic acid amide | 1.05 mol, 0.46 g | ClC=1N=C2SC=CN2C1S(=O)(=O)N | C5H4ClN3O2S2
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 6-chloro-imidazo[2,1-b]thiazole-5-sulfonic acid methylamino-(8-oxa-2,3-diaza-spiro[4.5]dec-3-en-2-yl)-methylene-amide | 0.56 g, 69% | CNC(=NS(=O)(=O)C1=C(N=C2SC=CN21)Cl)N2CC1(C=N2)CCOCC1 | C14H17ClN6O3S2
